US09315521B2
To a 0° C. solution of 2,4-dichloro-1,3-thiazole-5-carbaldehyde (1.0 g, 5.5 mmol) in anhydrous methanol (45 mL) was added sodium borohydride (340 mg, 9.0 mmol). The reaction mixture was stirred at room temperature overnight. Water (50 mL) was added and the methanol was evaporated. The resultant mixture was extracted with EtOAc (2×50 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo, to afford (2,4-dichloro-1,3-thiazol-5-yl)methanol (850 mg, 84% yield). The product was used without further purification.

reactant | 2,4-dichloro-1,3-thiazole-5-carbaldehyde | 5.5 mmol, 1.0 g | ClC=1SC(=C(N1)Cl)C=O | C4HCl2NOS
reactant | sodium borohydride | 9.0 mmol, 340 mg | [BH4-].[Na+]
reactant | Water | 50 mL | O | H2O
solvent | methanol | 45 mL | CO | CH4O
product | (2,4-dichloro-1,3-thiazol-5-yl)methanol | 850 mg, 84% yield | ClC=1SC(=C(N1)Cl)CO | C4H3Cl2NOS
